US05658908
A 25% aqueous solution of dimethylamine (420 mL, 2.3 mol) was diluted with 1000 mL of tetrahydrofuran and added dropwise to a solution of p-bromobenzenesulfonyl chloride (200 g, 0.78 mol) in 700 mL of tetrahydrofuran. The mixture was diluted with diethyl ether and the organic layer was washed with water and saturated aqueous sodium chloride and dried over sodium sulfate. Evaporation of the solvent gave 195.4 g (95%) of 4-bromo-N,N-dimethylbenzenesulfonamide as white crystals, mp 90°-92° C. (lit. 94° C., J. Am. Chem. Soc. 45, 2696 (1923)).

reactant | dimethylamine | 2.3 mol, 420 mL | CNC | C2H7N
reactant | p-bromobenzenesulfonyl chloride | 0.78 mol, 200 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | tetrahydrofuran | 1000 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-bromo-N,N-dimethylbenzenesulfonamide | 195.4 g, 95% | BrC1=CC=C(C=C1)S(=O)(=O)N(C)C | C8H10BrNO2S
